US08859549B2
tert-butyl 4-(4-oxo-3,4-dihydrophthalazin-1-ylthio)phenylcarbamate
4-chlorophthalazin-1(2H)-one and tert-butyl 4-mercaptophenylcarbamate were processed using a method similar to that described in Example 57A to afford the title compound. MS (APCI+) M/Z 370 (M+H)+.

reactant | 4-chlorophthalazin-1(2H)-one | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | tert-butyl 4-mercaptophenylcarbamate | SC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H15NO2S
product | tert-butyl 4-(4-oxo-3,4-dihydrophthalazin-1-ylthio)phenylcarbamate | O=C1NN=C(C2=CC=CC=C12)SC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C19H19N3O3S
